US06716859B2
N′-(2-Phenoxypyridine-3-carbonyl)-3-(trifluoromethyl)benzhydrazide
A solution of 3-(trifluoromethyl)benzhydrazide (102.1 mg, 0.5 mmol), 2-phenoxypyridine-3-carbonyl chloride (117 mg, 0.5 mmol) in pyridine (5 mL) was refluxed for 2 h. It was evaporated in vacuo and the residue was purified by column chromatography (silica gel, EtOAc/CH2Cl2=4:1) to give 107 mg (54%) of the title compound. 1H NMR (CDCl3): 10.88 (d, J=6.3 Hz, 1H), 9.80 (d, J=6.3 Hz, 1H), 8.60 (m, 1H), 8.30 (m, 1H), 8.17 (s, 1H), 8.06 (d, J=8.1 Hz, 1H), 7.81 (d, J=7.8 Hz, 1H), 7.61 (t, J=7.2 Hz, 1H), 7.51-7.46 (m, 2H), 7.34-7.17 (m, 4H).

reactant | 3-(trifluoromethyl)benzhydrazide | 0.5 mmol, 102.1 mg | FC(C=1C=C(C(=O)NN)C=CC1)(F)F | C8H7F3N2O
reactant | 2-phenoxypyridine-3-carbonyl chloride | 0.5 mmol, 117 mg | O(C1=CC=CC=C1)C1=NC=CC=C1C(=O)Cl | C12H8ClNO2
solvent | pyridine | 5 mL | N1=CC=CC=C1 | C5H5N
product | N′-(2-Phenoxypyridine-3-carbonyl)-3-(trifluoromethyl)benzhydrazide | 107 mg, 54% | O(C1=CC=CC=C1)C1=NC=CC=C1C(=O)NNC(C1=CC(=CC=C1)C(F)(F)F)=O | C20H14F3N3O3
